US07179823B1
To a solution of ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (710 mg) in N,N-dimethylformamide (10 ml), sodium hydride (60%, oily, 72.0 mg) was added at 0° C., and the solution was stirred at room temperature for 30 minutes. Iodopropane (0.33 g) was added to the reaction mixture, which was stirred at room temperature for two hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and a colorless oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the obtained oily substance, 1 N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at room temperature for two hours, diluted with 1 N hydrochloric acid (3 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-propyloxy-1H-pyrazol-4-yl]propionic acid was obtained (0.59 g, yield. 81%). This was recrystallized from acetone-hexane. Melting point: 108–109° C.

reactant | ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 710 mg | OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H27N3O5
reactant | sodium hydride | 72.0 mg | [H-].[Na+]
reactant | Iodopropane | 0.33 g | ICCC | C3H7I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-propyloxy-1H-pyrazol-4-yl]propionic acid | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)OCCC)C=C1 | C27H29N3O5
